US08017607B2
To a solution of rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester (2.1 g, 3.9 mmol) in dichloromethane (20 mL) was added trifluoroacetic acid (10 mL). The reaction mixture was stirred at room temperature for 24 h. The mixture was concentrated, and water was added. The “pH” of the mixture was adjusted to 6-7 by saturated aqueous NaHCO3 solution, then extracted with ethyl acetate. The organic layer was separated, washed with water, brine, dried over MgSO4, then concentrated to give rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid as a off-white solid (1.6 g, 85%). HRMS (ES+) m/z Calcd for C24H24Cl2F2N2O2+H [(M+H): 481.1256; Found: 481.1254.

reactant | rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester | 3.9 mmol, 2.1 g | C(C)(C)(C)OC(CN1[C@H]([C@]([C@H](C1)C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)=O | C28H32Cl2F2N2O2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid | 1.6 g, 85% | ClC=1C(=C(C=CC1)[C@@H]1[C@@]([C@@H](N(C1)CC(=O)O)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C24H24Cl2F2N2O2
